US07612075B2
A. 1-(4-Amino-quinazolin-7-ylmethyl)-4-prop-2-ynyl-piperazin-2-one.
Propargyl bromide (0.29 g, 1.95 mmol) is added to a solution containing 1-(4-amino-quinazolin-7-ylmethyl)-piperazin-2-one (0.5 g, 1.95 mmol), EXAMPLE 72, and K2CO3 (0.40 g, 2.93 mmol) in DMSO (10 mL) at ambient temperature. After 15 min, the reaction mixture is partitioned between aqueous NaHCO3 (100 mL) and CH2Cl2 (100 mL) and the layers are separated. The aqueous phase is subsequently saturated with NaCl and extracted three times with CHCl3 (50 mL). The combined organic phase is washed with brine, dried over anhydrous Na2SO4, filtered and concentrated. The residue is purified by flash silica gel chromatography (CH2Cl2 to 10% MeOH/CH2Cl2) to provide 390 mg (68%) of the title compound as a white solid. 1H NMR (300 MHz, CDCl3) δ2.68 (m, 1H), 3.13-3.37 (m, 6H), 4.07 (app q, J=5.2 Hz, 1H), 4.63 (s, 2H), 7.28 (dd, J=8.4, 1.4 Hz, 1H), 7.42 (s, 1H), 7.72 (br s, 2H), 8.14 (d, J=8.4 Hz, 1H), 8.34 (s, 1H) ppm; MS (ISP loop): m/z 296 (M+H).

reactant | Propargyl bromide | 1.95 mmol, 0.29 g | C(C#C)Br | C3H3Br
reactant | 1-(4-amino-quinazolin-7-ylmethyl)-piperazin-2-one | 1.95 mmol, 0.5 g | NC1=NC=NC2=CC(=CC=C12)CN1C(CNCC1)=O | C13H15N5O
reactant | K2CO3 | 2.93 mmol, 0.40 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 1-(4-Amino-quinazolin-7-ylmethyl)-4-prop-2-ynyl-piperazin-2-one | 390 mg, 68% | NC1=NC=NC2=CC(=CC=C12)CN1C(CN(CC1)CC#C)=O | C16H17N5O
